US05814648
D: 3-Benzyloxy-2-fluorobenzoic acid
To a solution of benzyl 3-benzyloxy-2-fluorobenzoate (7.13 g, 21 mmol) in methanol (40 ml) was added an aqueous solution of potassium hydroxide (2.38 g, 42 mmol in 40 ml of water) and the mixture heated at reflux for 30 min. The reaction mixture was cooled, washed with diethyl ether (20 ml) and the ethereal layer was discarded. The aqueous layer was acidified to pH 2 with concentrated HCl and extracted with ethyl acetate (3×40 ml). The combined organic extracts were washed with brine (20 ml), dried (MgSO4) and evaporated to afford title compound (4.83 g, 85%) as white solids.

reactant | benzyl 3-benzyloxy-2-fluorobenzoate | 21 mmol, 7.13 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)F | C21H17FO3
reactant | potassium hydroxide | 42 mmol, 40 ml, 2.38 g | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | 3-Benzyloxy-2-fluorobenzoic acid | 4.83 g, 85% | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C=CC1)F | C14H11FO3
